US06667342B1
4-(N-2-Tetrahydropyranyloxyethyl-t-butoxycarbonylamino)aniline
To a mixture of N-t-butoxycarbonylethanolamine (7.7 ml, 50 mmol) and 3,4-dihydropyran (5.7 ml, 62.5 mmol) in DCM (125 ml) was added 4-toluenesulphonic acid (100 mg, 0.5 mmol) and the mixture stirred at ambient temperature for 3 h. The solution was washed with saturated sodium hydrogen carbonate solution, dried and evaporated to dryness. The residue was filtered through a short pad of basic alumina with 10% EtOAc in hexane, the solvent evaporated to dryness, the residue dissolved in dimethylacetamide (5 ml) and added to a suspension of sodium hydride (400 mg of 50% dispersion in mineral oil, 10 mmol) in dimethylacetamide (5 ml). The mixture was heated at 50° C. for 1 h, cooled to ambient temperature and added to a solution of 1-fluoro-4-nitrobenzene (1.06 g, 7.5 mmol) in dimethylacetamide (5 ml) and heated at 50° C. for 4 h. The cooled mixture was poured onto water (150 ml), the aqueous solution was extracted with EtOAc, the EtOAc extracts were washed with brine, dried and evaporated. The residue was dissolved in ethanol (50 ml) and hydrogenated over 10% Pd/C for 4 h at ambient temperature. The catalyst was removed by filtration, the ethanol evaporated and the residue purified by column chromatography using 30% EtOAc in hexane to yield the title compound (640 mg, 1.9 mmol). NMR: 1.2-1.6 (m, 15H), 3.4-3.8 (m, 6H), 6.6 (d, 2H), 7.0 (d, 2H(; MS: 337 (M+H)+.

reactant | N-t-butoxycarbonylethanolamine | 50 mmol, 7.7 ml | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
reactant | 3,4-dihydropyran | 62.5 mmol, 5.7 ml | O1CCCC=C1 | C5H8O
reactant | 4-toluenesulphonic acid | 0.5 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydride | 10 mmol, 400 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 7.5 mmol, 1.06 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DCM | 125 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 4-(N-2-Tetrahydropyranyloxyethyl-t-butoxycarbonylamino)aniline | 1.9 mmol, 640 mg | O1C(CCCC1)OCCN(C1=CC=C(N)C=C1)C(=O)OC(C)(C)C | C18H28N2O4
